US05424478
To a solution of 4-acetoxy-2-methyl-2-buten-1-ol (6.69 g, 46.4 mmol) in dimethylformamide (40 ml) were added 2,2,6,6-tetramethyl-piperidine-1-oxy (0.39 g, 2.32 mmol, 5 mol %) and cuprous chloride (0.48 g, 4.64 mmol, 10 mol %). The mixture was subjected to reaction for 8 hours while bubbling oxygen at a rate of about 100 ml/min. After completion of the reaction, the reaction mixture was poured into ice-cooled water (30 ml) and extracted with ether (100 ml) three times. The extract was dried over anhydrous magnesium sulfate. Evaporation of the ether followed by purification by column chromatography (ethyl acetate-hexane (=1:3)) gave 4-acetoxy-2-methyl-2-buten-1-al (6.02 g, 42.3 mmol; Yield: 91.2%).

reactant | 4-acetoxy-2-methyl-2-buten-1-ol | 46.4 mmol, 6.69 g | C(C)(=O)OCC=C(CO)C | C7H12O3
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-acetoxy-2-methyl-2-buten-1-al | 42.3 mmol, 6.02 g, Yield: 91.2% | C(C)(=O)OCC=C(C=O)C | C7H10O3
